US04179505
A mixture of 5.6 parts of 3-[{2-amino-4-[4-(diphenylmethyl)-1-piperazinylmethyl]phenyl}amino]-1-propanol, 2.8 parts of ethyl benzenecarboximidate hydrochloride and 50 parts of acetic acid is stirred first overnight at room temperature and further for 1 hour at reflux. The solvent is evaporated in vacuo and the residue is stirred in water. The whole is alkalized with ammonium hydroxide and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98.2 by volume) as eluent. The fractions with the highest Rf-value are collected and the eluent is evaporated. The residue is crystallized from 35 parts of 2,2'-oxybispropane. The product is filtered off and dried, yielding 1.8 parts (24.8%) of [3-{5-[4-(diphenylmethyl)-1-piperazinylmethyl]-2-phenyl-1H-benzimidazol-1-yl}propyl]acetate; mp. 111.5° C.

reactant | 3-[{2-amino-4-[4-(diphenylmethyl)-1-piperazinylmethyl]phenyl}amino]-1-propanol | NC1=C(C=CC(=C1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)NCCCO | C27H34N4O
reactant | ethyl benzenecarboximidate hydrochloride | Cl.C1(=CC=CC=C1)C(OCC)=N
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | [3-{5-[4-(diphenylmethyl)-1-piperazinylmethyl]-2-phenyl-1H-benzimidazol-1-yl}propyl]acetate | 24.8% | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)C2=CC=CC=C2)CCCOC(C)=O)C=C1)C1=CC=CC=C1 | C36H38N4O2
